US05773663
2,6-Dichloro-5'-propionyloxy-4'-methoxy-2'methyl-benzophenone
A mixture of 2,6-Dichloro-5'-hydroxy-4'-methoxy-2'-methyl-benzophenone and propionic acid anhydride (5 ml) is stirred at 100° C. for 5 hours. Toluene/water is added. The organic phase is dried and evaporated. The residue is purified by chromatography (flash column with silicagel (30 g), elution with toluene). The toluene is removed. After treatment with cyclohexane the residue forms white crystalls; 0.5 g (42.6% y); mp. 142°-145° C.

reactant | 2,6-Dichloro-5'-hydroxy-4'-methoxy-2'-methyl-benzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2)O)OC)C)C(=CC=C1)Cl | C15H12Cl2O3
reactant | propionic acid anhydride | 5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | Toluene water | C1(=CC=CC=C1)C.O
product | 2,6-Dichloro-5'-propionyloxy-4'-methoxy-2'methyl-benzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2)OC(CC)=O)OC)C)C(=CC=C1)Cl | C18H16Cl2O4
